Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
liver abscesses
 
Major Surgical or Invasive Procedure:
ERCP ___
___ liver abscess aspiration ___

 
History of Present Illness:
Ms. ___ is a ___ yoF with hx of ulcerative colitis, primary
sclerosing cholangitis, sarcoidosis, and multiple recent
hospitalizations for cholangitis c/b sepsis and liver abscesses
s/p  ___ drainage, currently on IV ertapenem with planned course
ending on ___ who presents after ERCP today with stent
placement. 

To briefly recap her recent hospitalizations: She was first
admitted for acute cholangitis ___ for acute cholangitis
requiring plastic stent for stricture. Cytology at that time 
with
atypical crowded  granular epithelial cells, some with mucinous
changes in the background of acute inflammation. She was treated
with cefepime and flagyl for presumed infectious cholangitis
given leukocytosis, ultimately completed 10 day course of
ciprofloxacin + metronidazole.

She was then readmitted ___ for worsening RUQ pain. MRCP
revealed chronic sclerosing cholangitis with superimposed acute
cholangitis and development of few small abscesses, the largest
measuring 11 mm in the left lobe and 10 mm on the right lobe. 
She
underwent ERCP with stent removal. Previously dilated stricture
was not present.  Brushings were taken for cytology and FISH,
which were unremarkable and showed no evidence of malignancy. 
She
also had pouchoscopy which revealed an 8-mm polyp at ileoanal
anastomosis, which revealed inflammatory polyp on biopsy. She
ultimately was discharged with IV CTX 2g and metronidazole for 4
week course (end date to be ___. 

At follow up with Dr. ___ on ___, she had a repeat MRCP 
which
revealed numerous liver microabscesses, many which have 
increased
in size, now measuring 2.7cm in L lobe of liver in 2.5cm abscess
in R lobe as well as labs revealing worsening transaminitis. She
was then referred for direct admission for consideration of
diagnostic/ therapeutic tap of the largest abscess and was
hospitalized from ___. 

During hospitalization from ___. She underwent ___ aspiration
of the largest liver abscess which did not reveal any bacteria 
on
gram stain or culture. ID was consulted who recommended 
switching
from CTX/flagyl -> ertapenem 1g daily x4 weeks which was started
on ___, projected end date ___ but dependent on repeat imaging. 

She has since had repeat MRCP on  ___ which showed multiple 
small
micro abscesses within a cirrhotic liver some of which are
slightly larger in size as compared to prior study of ___.
No lesions suspicious for malignancy. 

She went for a scheduled ERCP today which revealed diffusely
narrowed CBD with several strictures in the distal ___ of the
CBD. Balloon dilation of the dominant stricture was unsuccessful
and so stent was placed. 

Recommendations from ERCP team: 
-Admit to hospital for monitoring
-Clear fluids when awake then advance diet as tolerated 
-Please consult Dr. ___ and Dr. ___ (ID) upon
admission
-Continue antibiotics - ertapenem 1g IV q24h - duration to be
dictated by ID
-Repeat ERCP in ___ weeks for stent removal and re-evaluation

On arrival to the floor, patient reports feeling well with no
complaints of abdominal pain, nausea/vomiting. She denies any
recent fevers/chills, chest pain, shortness of breath, cough,
dysuria. She continues to have diarrhea in the setting of her
ulcerative colitis. Denies any hematochezia or melena. 
 
Past Medical History:
-sarcoidosis
-ulcerative colitis
-primary sclerosing cholangitis and biliary stricture requiring
ERCP and stent insertion c/b sepsis and liver abscesses with ___
drainage
-recurrent pouchitis
-inflammatory polyp with rectal bleeding, now s/p polyp removal
-___ ulcer
 
Social History:
___
Family History:
Mother: pulmonary sarcoidosis, appendiceal cancer, HTN, OSA 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T98, BP 145/85, HR 80, RR 16, 100% on RA 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: WWP, Pulses DP/Radial 2+ bilaterally.
SKIN: No rashes or lesions
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1511)
    Temp: 98.2 (Tm 99.5), BP: 104/66 (88-111/46-68), HR: 73
(73-82), RR: 16 (___), O2 sat: 98% (95-98), O2 delivery: Ra   
GENERAL: Alert and interactive. In no acute distress.  
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: CTAB after cough.
ABDOMEN: soft, non-tender, non-distended.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:39PM BLOOD WBC-12.1* RBC-3.92 Hgb-11.7 Hct-36.4 
MCV-93 MCH-29.8 MCHC-32.1 RDW-14.9 RDWSD-51.2* Plt ___
___ 11:39PM BLOOD Neuts-76.6* Lymphs-11.3* Monos-8.7 
Eos-2.2 Baso-0.7 Im ___ AbsNeut-9.26* AbsLymp-1.36 
AbsMono-1.05* AbsEos-0.26 AbsBaso-0.09*
___ 11:39PM BLOOD ___ PTT-30.3 ___
___ 11:39PM BLOOD Glucose-97 UreaN-10 Creat-0.6 Na-144 
K-3.8 Cl-109* HCO3-24 AnGap-11
___ 11:39PM BLOOD ALT-64* AST-122* LD(LDH)-154 AlkPhos-537* 
TotBili-1.5
___ 11:39PM BLOOD Albumin-3.4* Calcium-9.4 Phos-3.5 Mg-1.9
___ 04:49AM BLOOD CRP-70.9*

PERTINENT MICRO:
================
___ Blood cx: NGTD
___ Blood cx: NGTD

___ 5:20 am SEROLOGY/BLOOD      Source: Line-PICC. 
   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 

___ Mycolytic blood cx: NGTD

___ 3:33 pm ABSCESS      Source: liver microabscess. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

PERTINENT IMAGING:
=================
___ CXR:
PICC line with distal tip in lower SVC.  Improved perihilar 
adenopathy.

___ Abdominal doppler:
Patent hepatic vasculature.  No evidence of portal vein 
thrombosis.  Small
residual cystic structures primarily in the left lobe as 
described

DISCHARGE LABS:
===============
___ 04:49AM BLOOD WBC-8.3 RBC-3.28* Hgb-9.8* Hct-30.9* 
MCV-94 MCH-29.9 MCHC-31.7* RDW-14.8 RDWSD-51.3* Plt ___
___ 04:49AM BLOOD Glucose-78 UreaN-15 Creat-0.5 Na-143 
K-4.3 Cl-108 HCO3-25 AnGap-10
___ 04:49AM BLOOD ALT-45* AST-63* AlkPhos-454* TotBili-1.0
___ 04:___ BLOOD Calcium-8.7 Phos-2.9 Mg-1.8

 
Brief Hospital Course:
Ms. ___ is a ___ yoF with PMH of ulcerative colitis, primary
sclerosing cholangitis with sarcoidosis, and recent sepsis ___
cholangitis with liver abscesses requiring multiple recent
hospitalizations, ___ drainage, and IV abx, who presents after
ERCP s/p stent for management of ongoing liver abscesses.

TRANSITIONAL ISSUES:
====================
[] Follow up blood and fungal cultures (no growth to date).
[] Follow up abscess aspiration cultures (no growth to date).
[] Will complete 2-week course of PO cipro 750mg BID and flagyl 
500mg q8h (___).
[] Repeat ERCP ___ weeks (___ ___.
[] Per hepatology: Given significant PSC disease now with 
difficult to treat infection, would recommend transplantation 
evaluation. Dr. ___ will see her in clinic after this 
admission and pending the above workup and management of her 
infection, he will make a referral to transplant clinic.
[] Current liver appointment is ___ may need an appointment 
sooner.

ACUTE/ACTIVE ISSUES:
====================
#Liver abscesses:
Previously drained by ___ during last admission ___, on IV
ertapenem (___) for continued treatment given failed prior
treatment on CTX/Flagyl. Followed by ___ clinic as outpt. Most
recent MRCP on ___ with evidence of continued liver abscesses
with evidence of enlargement. Switched to IV meropenem on 
admission. Cryptococcal Ag negative, with blood cultures and 
fungal cultures pending (but no growth to date). Underwent 
___ aspiration of liver abscess, cultures taken, no growth 
to date. Per ID recommendations, given no current growth on 
abscess aspirate cultures, will discontinue meropenem (and d/c 
PICC) and patient will be discharged on 2 more weeks of PO cipro 
750mg BID and flagyl 500mg q8h. She will follow up in ___ clinic.

#PSC:
#CBD strictures s/p stent placement on ___:
Patient with a hx of PSC, found on ERCP on ___ to have several
strictures in the distal ___ of the CBD requiring stent 
placement. Repeat ERCP in ___ weeks for stent removal and 
re-evaluation, scheduled for ___. Continued home ursodiol.

CHRONIC/STABLE ISSUES:
======================
#Ulcerative colitis:
Not on any active treatment. Denies any hematochezia. No concern
for acute flare at this moment. Continued home loperamide.

#Sarcoidosis:
Has chronic cough in setting of sarcoidosis. Continued home 
guaifenesin-codeine qHS and plaquenil.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 1 
tablet oral DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Ursodiol 250 mg PO BID 
4. LOPERamide 14 mg PO BID 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough 
7. Ertapenem Sodium 1 g IV 1X 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 750 mg PO Q12H 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
3.  DAILY VITAMIN FORMULA-MINERALS (multivitamin with minerals) 
1 tablet oral DAILY  
4.  GuaiFENesin-CODEINE Phosphate ___ mL PO QHS:PRN cough  
5.  Hydroxychloroquine Sulfate 200 mg PO BID  
6.  LOPERamide 14 mg PO BID  
7.  Multivitamins 1 TAB PO DAILY  
8.  Ursodiol 250 mg PO BID  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Liver abscesses

SECONDARY:
-Primary sclerosing cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
-You were admitted after your ERCP for management of your liver 
abscesses.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You had an ERCP and another stent was placed in the duct near 
your liver.
-You had an ultrasound of your liver that showed normal flow 
through the vessels around your liver.
-Some of the fluid was drained out of one of the liver 
abscesses. The fluid has not grown any bacteria. The infectious 
disease team has recommended no more IV antibiotics, and you 
will continue on oral antibiotics for 2 more weeks and follow up 
in clinic.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take your medications as prescribed.
-Please attend all follow up clinic appointments.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___